* coarse_tb.spice -- the coarse loop on its own, with vctrl driven by hand.
*
* No ring and no CDR here: vctrl is a PWL that plays the part the closed loop
* would.  That is the point of running it this way.  A closed-loop transient
* long enough to contain a real acquisition -- tens of microseconds -- would
* cost hours on this machine, and it would confound every question with every
* other.  This deck answers them one at a time in a few seconds each:
*
*   1. does the retrace self-start from a cold 0 V capacitor, and where does it
*      park?  (it must park at the SLOW end, or the search starts in the wrong
*      place)
*   2. with vctrl railed high, does vcoarse ramp at the designed rate, does the
*      wrap fire, and does the search repeat?
*   3. when vctrl comes back into the window, does the ramp stop?
*   4. does it then HOLD -- against the capacitor's own leakage and against
*      vctrl wandering by more than the fine loop's worst measured ripple?
*   5. and if vctrl goes below the window, does the loop push back the other
*      way?  (this is the half that a pure acquisition sweep does not have, and
*      it is what makes the hold immune to leakage rather than merely slow)
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib  mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib    res_typ
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib    cap_typ

.include coarse_loop.inc

.global sub!
Vsub sub! 0 0

VDD VDD 0 1.2
VSS VSS 0 0
* The chip's bias pad: 40 uA into the diode-connected reference.
Ib  0 ibias dc 40u
XMREF ibias ibias 0 0 sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
* 100 fF on the bias node.  In the real macro ibias carries the CTLE's and the
* CDR's mirrors and the pad; here it carries four gates and an ideal current
* source, which is numerically stiff -- at -40 C the retrace edge killed the
* run outright with "Timestep too small, trouble with node ibias".  This is a
* testbench fix for a testbench artefact; the retrace device was weakened
* separately, for the part of it that is a real disturbance.
Cbias ibias 0 100f

* vctrl: railed high for 150 us so the search has to run and wrap several
* times, then a staircase through the window.
*
* The staircase is the real measurement, and it replaces a test that was asking
* the wrong question.  The window is not a dead zone: at these currents the
* input pairs are in weak inversion and steer over about 130 mV, so between the
* thresholds *both* are partly on and the loop settles where they balance.  So
* "does vcoarse hold at vctrl = 0.599?" has no good answer -- vcoarse holds at
* whatever vctrl the null happens to be at, and drifts everywhere else, which
* is the loop working, not failing.  The question worth asking is where that
* null is, because in the closed loop it is the vctrl the receiver ends up
* sitting at.  So: step vctrl across the window and measure dvcoarse/dt at each
* step.  The null is where it changes sign.
Vct vctrl 0 PWL
+ 0        0.10
+ 5u       1.10
+ 150u     1.10
+ 150.5u   0.680
+ 190u     0.680
+ 190.5u   0.640
+ 230u     0.640
+ 230.5u   0.600
+ 270u     0.600
+ 270.5u   0.560
+ 310u     0.560
+ 310.5u   0.520
+ 350u     0.520

x1 VDD VSS ibias vctrl vcoarse coarse_loop

.ic v(vcoarse)=0

.options method=gear reltol=1e-4 abstol=1e-13 vntol=1e-7

.control
save v(vcoarse) v(vctrl) v(x1.rstn) v(x1.rst) v(x1.nlo) v(x1.nhi) v(x1.vh) v(x1.vl)
tran 50n 350u

* 1. cold start: the retrace must park at the SLOW end, or the search starts
*    in the wrong place.
meas tran v_park   MAX v(vcoarse) FROM=0    TO=5u
* 2. search rate, and the span it actually covers.  The first wrap searched
*    only 0.15-0.40 V because its retrace resistor was mis-solved, which looks
*    like a working loop in every waveform and silently cannot reach two thirds
*    of the corners.
* Timed between two fixed levels on one falling segment, not sampled at fixed
* times: a fixed 60-70 us window straddled a retrace on the folded pull-up and
* printed -88 mV/us for a loop searching at 18.4 (coarse_tb_fold.log).
meas tran t_s09    WHEN v(vcoarse)=0.9 FALL=2 TD=10u
meas tran t_s05    WHEN v(vcoarse)=0.5 FALL=2 TD=10u
let search_mV_us = 400/((t_s05 - t_s09)*1e6)
meas tran vc_lo    MIN v(vcoarse) FROM=10u  TO=150u
meas tran vc_hi    MAX v(vcoarse) FROM=10u  TO=150u
let search_span  = vc_hi - vc_lo
print v_park search_mV_us vc_lo vc_hi search_span
* 3. the null.  Each step is sampled 10 us after it lands, to let the pairs
*    settle, and 35 us later.
meas tran n68a FIND v(vcoarse) AT=160u
meas tran n68b FIND v(vcoarse) AT=188u
meas tran n64a FIND v(vcoarse) AT=200u
meas tran n64b FIND v(vcoarse) AT=228u
meas tran n60a FIND v(vcoarse) AT=240u
meas tran n60b FIND v(vcoarse) AT=268u
meas tran n56a FIND v(vcoarse) AT=280u
meas tran n56b FIND v(vcoarse) AT=308u
meas tran n52a FIND v(vcoarse) AT=320u
meas tran n52b FIND v(vcoarse) AT=348u
let d_680 = (n68b-n68a)*1e3/28
let d_640 = (n64b-n64a)*1e3/28
let d_600 = (n60b-n60a)*1e3/28
let d_560 = (n56b-n56a)*1e3/28
let d_520 = (n52b-n52a)*1e3/28
* mV/us of vcoarse at each vctrl; the null is where this changes sign.
print d_680 d_640 d_600 d_560 d_520
print v(x1.vh)[0] v(x1.vl)[0]
* Named vectors only -- a bare `write` stores every node at every timepoint and
* has exhausted this machine's memory before.  Five vectors over 8000 rows is
* a few hundred kilobytes and is what makes the wrap debuggable at all.
wrdata ../results/coarse_tb.csv v(vcoarse) v(x1.rstn) v(x1.nlo) v(x1.nhi) v(vctrl)
quit
.endc
.end
